US05776940
In the manner of step (a) of Example 1, cyclobutanemethylamine hydrochloride (Buchman and Howton, J. Amer. Chem. Soc. 1948, 70:2517; 7.96 g, 80.5 mmol) was reacted with phosgene to give 1,3-bis(cyclobutylmethyl)urea as white powder (5.20 g, 37%), m.p. 153°-155° C.; 1H-NMR (DMSO-d6) consistent with structure.

reactant | cyclobutanemethylamine hydrochloride | 80.5 mmol, 7.96 g | Cl.C1(CCC1)CN
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 1,3-bis(cyclobutylmethyl)urea | 5.20 g, 37% | C1(CCC1)CNC(=O)NCC1CCC1 | C11H20N2O
